US05057567
A Bis-(3-n-decylthiopropionoxy) Bis-(3-n-octylthiopropionoxy) neopentane was prepared. 150 grams (0.609 mol) of 3-n-decylthiopropionic acid and 132.9 grams (0.609 mol) of 3-n-octylthiopropionic acid were mixed, rendered molten and stirred within a reaction vessel, to which 39.5 grams (0.290 mol) of pentaerythritol were added, followed by 4.4 grams (0.023 mol) of para-toluenesulfonic acid catalyst. A vacuum of 40 torr was applied, and the mixture was heated to 135° C. Heating was continued for five hours, after which a liquid product having an acid value of 11.4 was obtained. This product was washed with 500 ml. of hot 3% sodium sulfate and then vacuum stripped It was washed with six 300 ml. aliquots of hot methanol, after which the acid value was 0.4. The yield was 250.9 grams, or 87.1 percent A comparison of the actual product distribution versus the statistical distribution can be summarized as follows:

reactant | 3-n-decylthiopropionic acid | 0.609 mol, 150 grams | C(CCCCCCCCC)CCC(=S)O | C13H26OS
reactant | 3-n-octylthiopropionic acid | 0.609 mol, 132.9 grams | C(CCCCCCC)CCC(=S)O | C11H22OS
reactant | pentaerythritol | 0.290 mol, 39.5 grams | OCC(CO)(CO)CO | C5H12O4
catalyst | para-toluenesulfonic acid | 0.023 mol, 4.4 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Bis-(3-n-decylthiopropionoxy) Bis-(3-n-octylthiopropionoxy) neopentane | C(CCCCCCCCC)CCC(=S)OCC(C(OC(CCCCCCCCCC)=S)(OC(CCCCCCCCCC)=S)OC(CCCCCCCCCCCC)=S)(C)C | C53H100O4S4
